US06201122B1
In a 1-L, three-necked flask, fitted with a condenser, stirrer, and thermometer were placed 263 g (0.5 mole) of C8F17SO2N(C2H5)H, 15 g of triethylamine, 3 g of phenothiazine, 150 g toluene and 90 g (0.9 mole) of ethyl acrylate. The reaction mixture was stirred and heated at reflux (about 97° C.) for 16 hours to yield the known adduct C8F17SO2N(C2H5)C2H4COOC2H5 in 97% yield as shown by H-NMR analysis. The adduct was isolated by stripping off the toluene solvent, triethyl amine and excess ethyl acrylate under water aspirator pressure.

reactant | C8F17SO2N(C2H5)H | 0.5 mole, 263 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NCC | C10H6F17NO2S
reactant | triethylamine | 15 g | C(C)N(CC)CC | C6H15N
reactant | phenothiazine | 3 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | ethyl acrylate | 0.9 mole, 90 g | C(C=C)(=O)OCC | C5H8O2
solvent | toluene | 150 g | C1(=CC=CC=C1)C | C7H8
product | C8F17SO2N(C2H5)C2H4COOC2H5 | 97% yield | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(CC)CCC(=O)OCC | C15H14F17NO4S
